US04420477
To a suspension of 7-aminocephalosporanic acid (0.99 g) and 1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazole-5-thiol (0.95 g) in dry acetonitrile (10 ml) was added boron trifluoride etherate (1.55 g) and the resulting solution was stirred at 50° C. for 2 hours. Water (10 ml) was added to the reaction mixture and the solution was adjusted to pH 3.5 with conc. aqueous ammonia under ice-cooling to give precipitates which were filtered, washed with water and dried to give 7-amino-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.0 g), mp 170° to 180° C. (dec.).

reactant | 7-aminocephalosporanic acid | 0.99 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazole-5-thiol | 0.95 g | C(=O)(O)C(CN1N=NN=C1S)=NOC | C5H7N5O3S
reactant | boron trifluoride etherate | 1.55 g | B(F)(F)F.CCOCC
reactant | ammonia | N | H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | 10 ml | O | H2O
product | 7-amino-3-[1-(2-carboxy-2-methoxyiminoethyl)-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.0 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NOC)C(=O)O)C(=O)O)C1=O | C13H15N7O6S2
